* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 8.997602e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.601849e-01)*u*u + (2.460230e+00)*u + (1.229973e+01)),1.833480e+01),8.460938e+01)}
.param L_a = {min(max(exp((1.368810e-01)*u*u + (2.002646e+00)*u + (-4.052383e+00)),1.299170e-05),6.182206e-05)}
.param R_pl = {min(max(exp((-6.918055e+00)*u*u + (-1.372507e+02)*u + (-6.544192e+02)),3.098104e+03),1.005000e+09)}
.param R_b = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param L_b = {min(max(exp((6.069877e-16)*u*u + (6.085391e-15)*u + (-2.763102e+01)),9.950249e-13),1.005000e-12)}
.param G0 = {min(max((1.961066e-04)*u*u + (4.643244e-03)*u + (2.777464e-02),4.821958e-04),2.765064e-03)}
.param G1 = {min(max((3.346351e-05)*u*u + (4.100397e-05)*u + (-3.931186e-03),-1.976838e-03),-4.497884e-04)}
.param w1 = {min(max(exp((1.892518e-02)*u*u + (3.701644e-01)*u + (1.593644e+01)),1.372762e+06),1.429951e+06)}
.param G2 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w2 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param G3 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param w3 = {min(max(exp((1.392200e-16)*u*u + (4.129372e-15)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param pcb0 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcb1 = {min(max((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00),0.000000e+00),0.000000e+00)}
.param pcw0 = {min(max(exp((4.717895e-16)*u*u + (1.054077e-14)*u + (1.219951e+01)),1.977032e+05),1.996852e+05)}
.param pcq = {min(max(exp((0.000000e+00)*u*u + (0.000000e+00)*u + (0.000000e+00)),9.950249e-01),1.005000e+00)}
.param gnw = {min(max(exp((-4.145240e-02)*u*u + (-6.921463e-01)*u + (-1.119811e+01)),1.902908e-04),2.475283e-04)}
.param gn1 = {min(max(exp((-1.637009e-01)*u*u + (-2.531407e+00)*u + (-9.004908e+00)),4.562499e-01),2.084433e+00)}
.param gn2 = {min(max(exp((-1.633103e-01)*u*u + (-2.523089e+00)*u + (-1.038004e+01)),1.103486e-01),5.052268e-01)}
.param gn3 = {min(max(exp((-1.649644e-01)*u*u + (-2.558201e+00)*u + (-1.186445e+01)),3.012945e-02),1.367336e-01)}
.param gn4 = {min(max(exp((-1.663716e-01)*u*u + (-2.581571e+00)*u + (-1.278967e+01)),1.304495e-02),5.973037e-02)}
.param gn5 = {min(max(exp((3.307471e+00)*u*u + (6.671317e+01)*u + (3.209542e+02)),1.151133e-06),7.922636e-03)}
.param gn6 = {min(max(exp((5.748154e-02)*u*u + (1.412682e+00)*u + (-8.324083e+00)),4.645623e-08),1.037039e-07)}
.param vreg = {min(max((1.610665e-04)*u*u + (1.700592e-03)*u + (9.019954e-01),8.989532e-01),9.024685e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-9.335825e+00)*vddc*vddc*vddc*vddc + (4.239667e+01)*vddc*vddc*vddc + (-7.196324e+01)*vddc*vddc + (5.411091e+01)*vddc + (-1.431109e+01) - (8.975771e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=9.976053e-10 ESR=5.000097e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-5.192625e-03,1.000000e-06,-1.710271e-03,1.300000e-05,-6.205075e-04,2.500000e-05,9.579055e-05,3.700000e-05,6.484965e-04,4.900000e-05,1.108993e-03,6.100000e-05,1.510352e-03,7.300000e-05,1.870683e-03,8.500000e-05,2.201022e-03,9.700000e-05,2.508618e-03,1.090000e-04,2.798506e-03,1.210000e-04,3.074337e-03,1.330000e-04,3.338848e-03,1.450000e-04,3.594149e-03,1.570000e-04,3.841900e-03,1.690000e-04,4.083434e-03,1.810000e-04,4.319834e-03,1.930000e-04,4.551994e-03,2.050000e-04,4.780656e-03,2.170000e-04,5.006445e-03,2.290000e-04,5.229891e-03,2.410000e-04,5.451442e-03,2.530000e-04,5.671485e-03,2.650000e-04,5.890353e-03,2.770000e-04,6.108334e-03,2.890000e-04,6.325679e-03,3.010000e-04,6.542608e-03,3.130000e-04,6.759314e-03,3.250000e-04,6.975968e-03,3.370000e-04,7.192723e-03,3.490000e-04,7.409713e-03,3.610000e-04,7.627061e-03,3.730000e-04,7.844877e-03,3.850000e-04,8.063263e-03,3.970000e-04,8.282310e-03,4.090000e-04,8.502104e-03,4.210000e-04,8.722726e-03,4.330000e-04,8.944251e-03,4.450000e-04,9.166753e-03,4.570000e-04,9.390302e-03,4.690000e-04,9.614966e-03,4.810000e-04,9.840815e-03,4.930000e-04,9.990391e-03,5.010000e-04,1.037095e-02,5.210000e-04,1.075545e-02,5.410000e-04,1.114425e-02,5.610000e-04,1.153775e-02,5.810000e-04,1.193641e-02,6.010000e-04,1.234076e-02,6.210000e-04,1.275143e-02,6.410000e-04,1.316920e-02,6.610000e-04,1.359501e-02,6.810000e-04,1.403005e-02,7.010000e-04,1.447581e-02,7.210000e-04,1.493422e-02,7.410000e-04,1.540784e-02,7.610000e-04,1.590002e-02,7.810000e-04,1.641536e-02,8.010000e-04,1.696012e-02,8.210000e-04,1.754305e-02,8.410000e-04,1.817638e-02,8.610000e-04,1.887717e-02,8.810000e-04,1.966876e-02,9.010000e-04,2.058162e-02,9.210000e-04,2.165204e-02,9.410000e-04,2.291657e-02,9.610000e-04,2.440234e-02,9.810000e-04,2.611784e-02,1.001000e-03,2.805151e-02,1.021000e-03,3.017871e-02,1.041000e-03,3.247070e-02,1.061000e-03,3.490040e-02,1.081000e-03,3.744467e-02,1.101000e-03,4.008464e-02,1.121000e-03,4.280518e-02,1.141000e-03,4.559429e-02,1.161000e-03,4.844238e-02,1.181000e-03,5.134177e-02,1.201000e-03,5.428626e-02,1.221000e-03,5.727082e-02,1.241000e-03,6.029128e-02,1.261000e-03,6.334422e-02,1.281000e-03,6.642676e-02,1.301000e-03,6.953648e-02,1.321000e-03,7.267134e-02,1.341000e-03,7.582958e-02,1.361000e-03,7.900968e-02,1.381000e-03,8.221033e-02,1.401000e-03,8.543041e-02,1.421000e-03,8.866890e-02,1.441000e-03,9.192493e-02,1.461000e-03,9.519772e-02,1.481000e-03,9.848658e-02,1.501000e-03,1.017909e-01,1.521000e-03,1.051101e-01,1.541000e-03,1.084437e-01,1.561000e-03,1.117913e-01,1.581000e-03,1.151524e-01,1.601000e-03,1.185268e-01,1.621000e-03,1.219139e-01,1.641000e-03,1.253137e-01,1.661000e-03,1.287257e-01,1.681000e-03,1.321497e-01,1.701000e-03,1.355856e-01,1.721000e-03,1.390330e-01,1.741000e-03,1.424918e-01,1.761000e-03,1.459619e-01,1.781000e-03,1.494430e-01,1.801000e-03,1.529350e-01,1.821000e-03,1.564378e-01,1.841000e-03,1.599513e-01,1.861000e-03,1.634753e-01,1.881000e-03,1.670098e-01,1.901000e-03,1.705546e-01,1.921000e-03,1.741096e-01,1.941000e-03,1.776749e-01,1.961000e-03,1.812503e-01,1.981000e-03,1.848357e-01,2.001000e-03,1.884312e-01,2.021000e-03,1.920366e-01,2.041000e-03,1.956519e-01,2.061000e-03,1.992771e-01,2.081000e-03,2.029122e-01,2.101000e-03,2.065571e-01,2.121000e-03,2.102118e-01,2.141000e-03,2.138763e-01,2.161000e-03,2.175506e-01,2.181000e-03,2.212347e-01,2.201000e-03,2.249287e-01,2.221000e-03,2.286324e-01,2.241000e-03,2.323460e-01,2.261000e-03,2.360694e-01,2.281000e-03,2.398028e-01,2.301000e-03,2.435460e-01,2.321000e-03,2.472993e-01,2.341000e-03,2.510626e-01,2.361000e-03,2.548359e-01,2.381000e-03,2.586195e-01,2.401000e-03,2.624132e-01,2.421000e-03,2.662174e-01,2.441000e-03,2.700319e-01,2.461000e-03,2.738570e-01,2.481000e-03,2.776928e-01,2.501000e-03,2.815394e-01,2.521000e-03,2.853970e-01,2.541000e-03,2.892658e-01,2.561000e-03,2.931460e-01,2.581000e-03,2.970378e-01,2.601000e-03,3.009414e-01,2.621000e-03,3.048573e-01,2.641000e-03,3.087856e-01,2.661000e-03,3.127268e-01,2.681000e-03,3.166812e-01,2.701000e-03,3.206494e-01,2.721000e-03,3.246318e-01,2.741000e-03,3.286291e-01,2.761000e-03,3.326419e-01,2.781000e-03,3.366709e-01,2.801000e-03,3.407171e-01,2.821000e-03,3.447812e-01,2.841000e-03,3.488644e-01,2.861000e-03,3.529678e-01,2.881000e-03,3.570929e-01,2.901000e-03,3.612410e-01,2.921000e-03,3.654138e-01,2.941000e-03,3.696131e-01,2.961000e-03,3.738410e-01,2.981000e-03,3.780998e-01,3.001000e-03,3.823919e-01,3.021000e-03,3.867200e-01,3.041000e-03,3.910872e-01,3.061000e-03,3.954966e-01,3.081000e-03,3.999519e-01,3.101000e-03,4.044567e-01,3.121000e-03,4.090153e-01,3.141000e-03,4.136321e-01,3.161000e-03,4.183118e-01,3.181000e-03,4.230596e-01,3.201000e-03,4.278810e-01,3.221000e-03,4.327818e-01,3.241000e-03,4.377685e-01,3.261000e-03,4.428479e-01,3.281000e-03,4.480274e-01,3.301000e-03,4.533152e-01,3.321000e-03,4.587200e-01,3.341000e-03,4.642515e-01,3.361000e-03,4.699205e-01,3.381000e-03,4.757387e-01,3.401000e-03,4.817192e-01,3.421000e-03,4.878766e-01,3.441000e-03,4.943312e-01,3.461000e-03,5.009039e-01,3.481000e-03,5.077103e-01,3.501000e-03,5.147739e-01,3.521000e-03,5.221211e-01,3.541000e-03,5.297816e-01,3.561000e-03,5.377890e-01,3.581000e-03,5.461805e-01,3.601000e-03,5.549975e-01,3.621000e-03,5.642854e-01,3.641000e-03,5.740929e-01,3.661000e-03,5.844716e-01,3.681000e-03,5.954738e-01,3.701000e-03,6.071507e-01,3.721000e-03,6.195487e-01,3.741000e-03,6.327062e-01,3.761000e-03,6.466496e-01,3.781000e-03,6.613907e-01,3.801000e-03,6.769253e-01,3.821000e-03,6.932337e-01,3.841000e-03,7.102837e-01,3.861000e-03,7.280345e-01,3.881000e-03,7.464411e-01,3.901000e-03,7.654583e-01,3.921000e-03,7.850435e-01,3.941000e-03,8.051581e-01,3.961000e-03,8.257682e-01,3.981000e-03,8.468444e-01,4.001000e-03,8.683612e-01,4.021000e-03,8.902961e-01,4.041000e-03,9.126289e-01,4.061000e-03,9.353411e-01,4.081000e-03,9.584158e-01,4.101000e-03,9.818374e-01,4.121000e-03,1.005591e+00,4.141000e-03,1.029662e+00,4.161000e-03,1.053887e+00,4.181000e-03,1.078557e+00,4.201000e-03,1.103506e+00,4.221000e-03,1.128719e+00,4.241000e-03,1.154184e+00,4.261000e-03,1.179887e+00,4.281000e-03,1.205817e+00,4.301000e-03,1.231963e+00,4.321000e-03,1.258313e+00,4.341000e-03,1.284857e+00,4.361000e-03,1.311583e+00,4.381000e-03,1.338481e+00,4.401000e-03,1.365543e+00,4.421000e-03,1.392758e+00,4.441000e-03,1.420117e+00,4.461000e-03,1.447612e+00,4.481000e-03,1.475235e+00,4.501000e-03,1.502977e+00,4.521000e-03,1.530831e+00,4.541000e-03,1.558789e+00,4.561000e-03,1.586846e+00,4.581000e-03,1.614994e+00,4.601000e-03,1.643226e+00,4.621000e-03,1.671538e+00,4.641000e-03,1.699923e+00,4.661000e-03,1.728376e+00,4.681000e-03,1.756891e+00,4.701000e-03,1.785464e+00,4.721000e-03,1.814090e+00,4.741000e-03,1.842765e+00,4.761000e-03,1.871485e+00,4.781000e-03,1.900244e+00,4.801000e-03,1.929041e+00,4.821000e-03,1.957870e+00,4.841000e-03,1.986729e+00,4.861000e-03,2.015614e+00,4.881000e-03,2.044522e+00,4.901000e-03,2.073451e+00,4.921000e-03,2.102397e+00,4.941000e-03,2.131358e+00,4.961000e-03,2.160331e+00,4.981000e-03,2.189313e+00,5.001000e-03,2.218304e+00,5.021000e-03,2.247300e+00,5.041000e-03,2.276299e+00,5.061000e-03,2.305299e+00,5.081000e-03,2.334299e+00,5.101000e-03,2.363297e+00,5.121000e-03,2.392291e+00,5.141000e-03,2.421279e+00,5.161000e-03,2.450260e+00,5.181000e-03,2.479233e+00,5.201000e-03,2.508196e+00,5.221000e-03,2.537148e+00,5.241000e-03,2.566088e+00,5.261000e-03,2.595014e+00,5.281000e-03,2.623925e+00,5.301000e-03,2.652821e+00,5.321000e-03,2.681700e+00,5.341000e-03,2.710561e+00,5.361000e-03,2.739404e+00,5.381000e-03,2.768227e+00,5.401000e-03,2.797030e+00,5.421000e-03,2.825813e+00,5.441000e-03,2.854573e+00,5.461000e-03,2.883311e+00,5.481000e-03,2.912026e+00,5.501000e-03,2.940718e+00,5.521000e-03,2.969385e+00,5.541000e-03,2.998027e+00,5.561000e-03,3.026643e+00,5.581000e-03,3.055234e+00,5.601000e-03,3.083799e+00,5.621000e-03,3.112336e+00,5.641000e-03,3.140847e+00,5.661000e-03,3.169329e+00,5.681000e-03,3.197784e+00,5.701000e-03,3.226210e+00,5.721000e-03,3.254607e+00,5.741000e-03,3.282976e+00,5.761000e-03,3.311314e+00,5.781000e-03,3.339623e+00,5.801000e-03,3.367903e+00,5.821000e-03,3.396152e+00,5.841000e-03,3.424370e+00,5.861000e-03,3.452558e+00,5.881000e-03,3.480715e+00,5.901000e-03,3.508840e+00,5.921000e-03,3.536935e+00,5.941000e-03,3.564998e+00,5.961000e-03,3.593029e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 8.327175e-09        $ corner 19.11 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 5.660840e-10        $ corner 281.2 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 3.896988e-11        $ corner 4084 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 9.257313e-13        $ corner 1.719e+05 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 4.628779e-13        $ corner 3.438e+05 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 3.313672e-16        $ corner 4.803e+08 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

